US09238640B2
Preparation of 5,7-Dichloro-2-(3,5-dimethyl-4-(2-(pyrrolidin-1-yl)ethoxy)phenyl)quinazolin-4(3H)-one
To a solution of 2-[4-(2-bromo-ethoxy)-3,5-dimethylphenyl]-5,7-dichloro-3H-quinazolin-4-one (0.44 g, 1.00 mmol) in anhydrous DMF (10 mL) was added pyrrolidine (0.28 g, 4.00 mmol). The reaction mixture was stirred at room temperature for 6 hours under nitrogen. Solvent was evaporated under reduced pressure. Water (50 mL) was added. The separated solid was filtered, washed with water (20 mL), and dried under vacuum. The crude compound was purified by the Simpliflash system (0-5% methanol in CH2Cl2 and 5% methanol (containing 7.0 M ammonia) in CH2Cl2 as eluent) to give the title compound as a white solid. Yield: 0.31 g (72%). MP 209-210° C. 1H NMR (400 MHz, DMSO-d6): δ 12.39 (br s, 1H), 7.90 (s, 2H), 7.71 (d, J=1.95 Hz, 1H), 7.60 (d, J=1.95 Hz, 1H), 3.91 (t, J=5.85 Hz, 2H), 2.83 (t, J=6.05 Hz, 2H), 2.55 (m, 4H), 2.31 (s, 6H), 2.01 (m, 4H). MS (ES+) m/z 432.54 (100%), 434.49 (90%).

reactant | 2-[4-(2-bromo-ethoxy)-3,5-dimethylphenyl]-5,7-dichloro-3H-quinazolin-4-one | 1.00 mmol, 0.44 g | BrCCOC1=C(C=C(C=C1C)C1=NC2=CC(=CC(=C2C(N1)=O)Cl)Cl)C | C18H15BrCl2N2O2
reactant | pyrrolidine | 4.00 mmol, 0.28 g | N1CCCC1 | C4H9N
solvent | DMF | 10 mL | CN(C)C=O | C3H7NO
product | 5,7-Dichloro-2-(3,5-dimethyl-4-(2-(pyrrolidin-1-yl)ethoxy)phenyl)quinazolin-4(3H)-one | ClC1=C2C(NC(=NC2=CC(=C1)Cl)C1=CC(=C(C(=C1)C)OCCN1CCCC1)C)=O | C22H23Cl2N3O2
